US08809525B2
5-Phenyl-6-[3-(trifluoromethyl)piperidin-1-yl]-1,2,4-triazin-3-amine (50 mg, 8%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.50 g, 1.99 mmol) and 3-(trifluoromethyl)piperidine (0.40 g, 2.58 mmol) according to the general procedure of Example 2.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.99 mmol, 0.50 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-(trifluoromethyl)piperidine | 2.58 mmol, 0.40 g | FC(C1CNCCC1)(F)F | C6H10F3N
product | 5-Phenyl-6-[3-(trifluoromethyl)piperidin-1-yl]-1,2,4-triazin-3-amine | 50 mg, 8% | C1(=CC=CC=C1)C=1N=C(N=NC1N1CC(CCC1)C(F)(F)F)N | C15H16F3N5
